US09079911B2
2-(4,6-Dimethylpyrimidin-2-yl)-5-[(3-phenylthiophen-2-yl)carbonyl]octahydropyrrolo[3,4-c]pyrrole
A mixture of 2-(4,6-dimethyl-pyrimidin-2-yl)-octahydro-pyrrolo[3,4-c]pyrrole (60.0 mg, 0.28 mmol), 3-phenyl-thiophene-2-carboxylic acid (61.8 mg, 0.30 mmol), HATU (156.8 mg, 0.41 mmol) and DIPEA (107.0 mg, 0.83 mmol) was stirred into DMF (5.0 mL) at room temperature for 30 minutes. The reaction mixture was diluted with ethyl acetate (60.0 mL) and washed with water (2×100 mL). The organic phase was dried (Na2SO4), filtered and concentrated to dryness. The crude product was purified using Agilent HPLC (Basic system) to yield pure title compound (30.0 mg, 27.0%). MS (ESI) mass calcd. for C23H24N4OS, 404.54; m/z found 405.2 [M+H]+. 1H NMR (CDCl3): 7.45-7.41 (m, 2H), 7.39 (d, J=5.1, 1H), 7.34-7.27 (m, 2H), 7.18-7.14 (m, 1H), 7.13 (d, J=5.0, 1H), 6.28 (s, 1H), 3.88-3.66 (m, 2H), 3.61-3.49 (m, 2H), 3.30 (dd, J=11.5, 5.1, 1H), 3.19-3.04 (m, 2H), 2.92-2.78 (m, 1H), 2.75-2.61 (m, 2H), 2.37-2.22 (m, 6H).

reactant | 2-(4,6-dimethyl-pyrimidin-2-yl)-octahydro-pyrrolo[3,4-c]pyrrole | 0.28 mmol, 60.0 mg | CC1=NC(=NC(=C1)C)N1CC2CNCC2C1 | C12H18N4
reactant | 3-phenyl-thiophene-2-carboxylic acid | 0.30 mmol, 61.8 mg | C1(=CC=CC=C1)C1=C(SC=C1)C(=O)O | C11H8O2S
reactant | HATU | 0.41 mmol, 156.8 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 0.83 mmol, 107.0 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | ethyl acetate | 60.0 mL | C(C)(=O)OCC | C4H8O2
solvent | DMF | 5.0 mL | CN(C)C=O | C3H7NO
product | 2-(4,6-Dimethylpyrimidin-2-yl)-5-[(3-phenylthiophen-2-yl)carbonyl]octahydropyrrolo[3,4-c]pyrrole | 30.0 mg, 27.0% | CC1=NC(=NC(=C1)C)N1CC2CN(CC2C1)C(=O)C=1SC=CC1C1=CC=CC=C1 | C23H24N4OS
